US04281003
1-(2,6-DIFLUOROBENZOYL)-3-(5-CHLORO-2-PYRIDINYL)UREA
An 0.5 g. portion of 5-chloro-2-aminopyridine was reacted with 0.6 g. of 2,6-difluorobenzoyl isocyanate as described in Example 1. The isolated product was 0.8 g. of the product named in the heading above, m.p. 226°-229° C. Its elemental analysis showed the following results:

reactant | 5-chloro-2-aminopyridine | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | 2,6-difluorobenzoyl isocyanate | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
product | 1-(2,6-DIFLUOROBENZOYL)-3-(5-CHLORO-2-PYRIDINYL)UREA | FC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)Cl)C(=CC=C1)F | C13H8ClF2N3O2
